US06277996B1
Preparation of (Z)-2-(2-carboxyprop-2-oxyimino)-2-(2-aminothiazol-4-yl)acetylchloride monohydrochloride
After cooling down a mixture of 2,000 ml of dichloromethane and 2,000 ml of diethyl ether to a temperature of 0° C. to 5° C., 55 ml of phosphorus oxychloride and 38 ml of N,N-dimethylformamide were sequentially added dropwise thereto. At the same temperature, the solution was stirred for 30 minutes, and 100 g of (Z)-2-(2-t-butoxycarbonylprop-2-oxyimino)-2-(2-aminothiazol-4-yl)acetic acid was then added thereto, followed by further stirring the resulting solution for one hour. After cooling down the stirred solution to a temperature of −15° C. to −20° C., anhydrous hydrochloric acid was introduced at a rate of 500 ml/min. to 1,000 ml/min over one hour, followed by stirring the solution. Upon this stirring, the deprotection on the carboxy group was proceeded while beginning to deposit a solid material. The solid material was filtered, washed with 100 ml of dicholoromethane, and 100 ml of diethyl ether, in sequence, and then dried in vacuo, thereby yielding 85 g (86% yield) of the title compound as a white solid. Melting point (° C.): 153-158 (decomposition); 1NMR: (δ, DMSO-d6); 1.51(s, 6H), 7.19(s, 1H).

reactant | dichloromethane | 2,000 ml | ClCCl | CH2Cl2
reactant | phosphorus oxychloride | 55 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | (Z)-2-(2-t-butoxycarbonylprop-2-oxyimino)-2-(2-aminothiazol-4-yl)acetic acid | 100 g | C(C)(C)(C)OC(=O)C(C)(C)O\N=C(/C(=O)O)\C=1N=C(SC1)N | C13H19N3O5S
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 38 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | 2,000 ml | C(C)OCC | C4H10O
product | (Z)-2-(2-carboxyprop-2-oxyimino)-2-(2-aminothiazol-4-yl)acetylchloride monohydrochloride | 85 g, 86% yield | Cl.C(=O)(O)C(C)(C)O\N=C(/C(=O)Cl)\C=1N=C(SC1)N | InChI=1S/C9H10ClN3O4S.ClH/c1-9(2,7(15)16)17-13-5(6(10)14)4-3-18-8(11)12-4;/h3H,1-2H3,(H2,11,12)(H,15,16);1H/b13-5-;
